US06492322B1
Gafquat 755N (GAF)
2-Pyrrolidinone, 1-Ethenyl-, Polymer and 2-Dimethylamino)Ethyl 2-Methyl-2-Propenoate, compound with Diethyl Sulfate

reactant | 2-Pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | Ethyl 2-Methyl-2-Propenoate | CC(C(=O)OCC)=C | C6H10O2
reactant | Diethyl Sulfate | S(=O)(=O)(OCC)OCC | C4H10O4S
product | Gafquat 755N | CC(=C)C(=O)OCCN(C)C.COS(=O)(=O)OC.C=CN1CCCC1=O | InChI=1S/C8H15NO2.C6H9NO.C2H6O4S/c1-7(2)8(10)11-6-5-9(3)4;1-2-7-5-3-4-6(7)8;1-5-7(3,4)6-2/h1,5-6H2,2-4H3;2H,1,3-5H2;1-2H3
